US04833169
A solution of 3.9 g of sodium azide in 10 ml of water is added to a solution of 13.86 g (40 mmol) of p-toluenesulphonic acid (7-methoxy-1,2,3,4-tetrahydro-naphth-2-ylmethyl) ester in 200 ml of ethanol and the whole is boiled under reflux for 18 hours. After cooling, the alcohol is evaporated off under reduced pressure, water is added to the residue and extraction is carried out with dichloromethane. The organic phase is washed with water, dried over sodium sulphate and concentrated by evaporation. (7-methoxy-1,2,3,4-tetrahydro-naphth-2-yl)methylazide is obtained in the form of a yellow oil.

reactant | sodium azide | 3.9 g | [N-]=[N+]=[N-].[Na+]
reactant | p-toluenesulphonic acid (7-methoxy-1,2,3,4-tetrahydro-naphth-2-ylmethyl) ester | 40 mmol, 13.86 g | COC1=CC=C2CCC(CC2=C1)COS(=O)(=O)C1=CC=C(C=C1)C | C19H22O4S
solvent | water | 10 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (7-methoxy-1,2,3,4-tetrahydro-naphth-2-yl)methylazide | COC1=CC=C2CCC(CC2=C1)CN=[N+]=[N-] | C12H15N3O
